Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
S/p fall and hypoglyemia

 
Major Surgical or Invasive Procedure:
Left trochanteric fixation nail
 
History of Present Illness:
Mr. ___ is a ___ y.o. M with dementia, CAD, CHF (unknonw EF), 
HTN, and history of falls, who presents s/p unwitnessed fall at 
nursing home. Patient is A&O x 1 at baseline per report. He 
cannot recall events. He was also found to be hypoglycemic in 
the ED.  

In the ED, initial VS: T 97.8 HR 63 BP 157/78 RR 16 99% RA. ___ 
97 in ED. Labs, including UA and troponin, were sent. Given 1 L 
NS and 1 amp D50 for low serum glucose of 29. Patient had CT 
head, CT cspine, L femur Xray. ___ J collar applied. Repeat ___ 
82. Given orange juice. Ortho trauma and ortho spine were 
consulted. Patient admitted to medicine for hypoglycemia and 
fall with ortho consult.  

On the floor, ___ 42. Unable to tell me his history. ___ 
___ and family unable to provide further details  
 
Past Medical History:
Dementia
Coronary artery disease
Congestive Heart Failure (EF unknown)
Hypertension
s/p Medtronics Dual Chamber Pacemaker
Chronic renal insufficiency
"Mood disorder" otherwise unknown
 
Social History:
___
Family History:
N/C
 
Physical Exam:
Vitals - T: 95.9 BP: 166/72 HR: 59 RR: 18 02 sat: 95% RA  ___ 101 

GENERAL: elderly male, lying comfortably in bed, NAD  
HEENT: anicteric, OP, dry oral mucosa; JVP not elevated  
CARDIAC: RRR, nl S1, S2, no r/g, II/VI SEM at ___  
LUNG: CTAB anteriorly, no wheezes  
ABDOMEN: NDNT, soft, NABS  
EXT: 2+ pitting edema to knees bilaterally L>>R, L leg 
externally rotated and shortened; +2 DP bilaterally  
NEURO: unable to cooperate with exam, but A&O x 1 (name, but 
thinks ___ and unable to tell me place).  Follows simple 
commands  
 
Pertinent Results:
Admission Labs
___ 08:50PM BLOOD WBC-7.4 RBC-3.90* Hgb-11.4* Hct-35.5* 
MCV-91 MCH-29.3 MCHC-32.2 RDW-15.6* Plt ___
___ 08:50PM BLOOD Neuts-84.7* Bands-0 Lymphs-9.5* Monos-4.3 
Eos-1.0 Baso-0.5
___ 08:50PM BLOOD ___ PTT-29.0 ___
___ 08:50PM BLOOD Glucose-29* UreaN-25* Creat-1.2 Na-140 
K-3.8 Cl-104 HCO3-22 AnGap-18
___ 08:50PM BLOOD ALT-17 AST-32 AlkPhos-111 TotBili-0.6
___ 08:50PM BLOOD Calcium-8.8 Phos-3.3 Mg-1.9

Cardiac Biomarkers
___ 08:50PM BLOOD cTropnT-0.01
___ 09:00AM BLOOD CK(CPK)-106 CK-MB-4 cTropnT-0.02*
___ 03:40PM BLOOD CK(CPK)-96 CK-MB-NotDone cTropnT-0.02*
___ 03:45PM BLOOD CK(CPK)-48

Other Labs:
___ 06:20AM BLOOD Cortsol-21.4*
___ 01:39PM BLOOD Lactate-1.5
___ INSULIN:   <2     
___ C-PEPTIDE:  1.1
___ INSULIN:   <2
___ C-PEPTIDE:   1.7        
___ Beta-Hydroxybutyrate:   1.2 (High) 

Imaging:
EKG: V-paced at 60 bpm with PVC, LAD, no acute ST changes or 
TWI, unchanged compared to prior from ___.  
 
___ Portable CXR -- Borderline size of the cardiac 
silhouette. Left pectoral pacemaker in expected position. 
Moderate left pleural effusion, mild right pleural effusion, 
both accompanied by relatively extensive areas of suprabasal 
atelectasis. 
The ventilated parts of the lungs show mild overinflation. 
Although the left apex is slightly hyperlucent, no distinct 
pneumothorax can be detected. 
In the ventilated parts of the lung, there is no evidence of 
focal parenchymal opacity suggesting pneumonia. 

___ CT C-Spine W/O Contrast 
no fracture severe multilevel DJD with large posterior 
osteophytes and C3-4, predisposing to cord injury in the setting 
of trauma.  

___ CT Head W/O Contrast  
no acute pathology  

___ Femur (Ap & Lat) Left (Final):  
IMPRESSION:  
1. Comminuted, mildly displaced left intertrochanteric fracture 
with varus angulation. No evidence of dislocation. 
2. Degenerative changes at both hip joints as well as the imaged 
lower lumbar spine. 

 
Brief Hospital Course:
___ y.o. M with dementia, CAD, CHF (unknonw EF), HTN, and history 
of falls, who presents s/p fall at nursing home with 
hypoglycemia.  

# Hypoglycemia. Patient noted to be severely hypoglycemic on 
labs in ED with finger stick of 29.  The etiology of 
hypoglycemia was thought to be secondary to malnutrition, 
especially with elevated INR of 1.5 in absence of other liver 
abnormalities.  As per nursing home, the patient has no history 
of diabetes and received no hypoglycemic medication in error.  
Infectious evaluation with urinalysis, chest x-ray was also 
negative.  Renal function was normal.  Insulin and c-peptide 
levels were low making a diagnosis of an insulinoma very 
unlikely. Prior to surgical fixation of left femur fracture, 
patient was NPO and maintained on a D51/2 NS drip.  Following 
ORIF, this was discontinued with the presumption that recurrent 
hypoglycemia could be avoided with adequate oral intake.  Blood 
glucose levels were checked every 4 hours and on ___ patient 
was noted to have ___ of 48, hypotension with SBP in ___, and 
periods of apnea.  Given 1 amp D50, fluid bolus of 750cc NS and 
1 UpRBC for ___ blood loss with normalization of 
vital signs and mental status returning to baseline.  Due to 
recurrent hypoglycemia, patient was maintained on glucose drip.  
Patient was noted to have dysphagia with poor oral intake and a 
speech/ swallow consultation recommended pureed diet with 
nectar-thickened liquids.  Despite dietary modification and 
nursing staff prompting, patient's oral intake did not improve 
and malnurishment was felt to be due to perioperative delerium 
with underlying advanced dementia.  The patient's daughter, his 
health care proxy, did not wish to pursue a PEG tube or other 
invasive methods to prolong life.  However, she agreed to 
temporizing methods to support patient through post-operative 
period to see if he would regain his desire to take in PO.  The 
patient was maintained on a D10 drip and, over the course of his 
hospitalization, he continued to have poor oral intake related 
to his advanced dementia. He was evaluated by the endocrinology 
service; given his low insulin levels and high 
beta-hydroxybutyrate level, it was felt that his persistent 
hypoglycemia was related to malnutrition and poor oral intake. 
After a lengthy meeting with the patient's daughter, it was 
decided, given the low likelihood that the patient would be able 
to progress back to the functional state he had been in the past 
and the fact that he was unable to support his own nutrition 
through PO intake, that the patient would be transitioned to 
comfort measures only. The D10 drip was stopped and 
non-essential medications were stopped. The patient passed away 
comfortably on ___.

# Hypoxia: Pt developed worsening hypoxia on ___. CXR showed 
new infiltrate. There was concern for aspiration, and the 
patient was started on cipro/flagyl. Additionally, the patient 
was grossly fluid overloaded from his continuous D10 drip. Of 
note, the patient did not spike any fevers nor did he develop a 
leukocytosis. Antibiotics were continued until the patient was 
made CMO. The patient was given lasix boluses in attempts to 
remove some fluid; however, his urine output did not respond 
very well.

# Left comminuted intertrochanteric femur fracture: Presented 
with left femur fracture after fall.  On ___, patient 
underwent uncomplicated ORIF of fracture.  Post-operatively, he 
was placed on enoxaparin to reduce risk of DVT formation.  For 
periprocedural blood loss, he was transfused 1 UpRBC and 
hematocrit stabilized at ___.   Initially pain was managed 
with acetaminophen around the clock and morphine as needed for 
breakthrough.  On ___, patient had a hypoglycemic episode with 
periods of observed apnea (see below), and as morphine may have 
been contributing to respiratory depression, it  was 
discontinued.  Breakthrough pain was managed with  oxycodone 
2.5mg as needed with good results.  He was maintained on vitamin 
D/ calcium through duration of hospital stay for underlying 
osteopenia/ osteoporosis.  Patient remained non-weight- bearing 
throughout hospital stay as per orthopedic recommendation.

# s/p Fall: As above, patient presented after an unwitnessed 
fall most likely mechanical +/- hypoglycemia.  ACS was ruled out 
with serially EKGs and flat cardiac enzymes x 3.  Patient was 
monitored on telemetry with no evidence of arrhythmia.  CT head 
showed no evidence of acute intracranial pathology that could 
have caused syncope.  As above, the fall resulted in a left 
femur fracture, managed by surgical fixation.   CT C-spine 
showed severe multilevel DJD with large posterior osteophytes 
and C3-4 predisposing to cord injury in the setting of trauma. 
Initially patient was placed in a ___ until C-spine was 
cleared by ortho.  No evidence of other mechanical injury 
resulting from fall.

#  CHF with unknown EF:  Volume status was monitored carefully 
throughout hospitalization especially in the setting of unknown 
ejection fraction, poor PO intake and continuous fluid 
requirements due to hypoglycemia.  Upon hospitalization, patient 
appeared hypovolemic and his furosemide was held pending 
surgery.   Through hospital course, patient became volume 
overloaded with pleural effusions on CXR and pitting edema in 
lower extremities.  Third spacing due to low oncotic pressure 
(albumin of 2.8) likely contributed.  Fluid overload managed 
with boluses of lasix 10mg IV prn to keep respiratory status 
stabilized.  Lisinopril and metoprolol were held in setting of 
low blood pressure. As above, the patient was given lasix in 
attempts to remove fluid; however, his urine output became less 
and less responsive. Ultimately, the patient was made CMO and 
passed away.

# Normocytic anemia: admitted with Hct around 35. Required 1U 
pRBC following surgery.  Hct was trended through hospitalization 
and remained stable.

#  Psych: Initially continued sertraline, risperidone, depakote 
for unknown mood d/o. Sertraline was ultimately d/c'ed out of 
concern that it could contribute to hypoglycemia; however, 
hypoglycemia did not improve after sertraline was stopped.
 
Medications on Admission:
Divalproex Sodium 125 mg po qAM
Divalproex Sodium 250 mg po qhs
Furosemide 20 mg po qAM
Lisinopril 2.5 mg po qAM
Metoprolol XL 50 mg po daily
MVI 1 tablet po daily
Pantoprazole 40 mg po daily
Risperione 0.5 mg po qhs
Sertraline 50 mg po qAM
TEDS
Vitamin B12 1000 mcg po daily
Vitamin D 50,000 units po qweely
Tylenol prn
Almacone 30 mL po q2 hours prn
Loperamide prn
MOM prn
___ 0.5 mg po TID prn

 
Discharge Medications:
Deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased
 
Discharge Condition:
Deceased
 
Discharge Instructions:
Deceased
 
Followup Instructions:
___